*Buck Converter - PI Duty-Cycle Control (Closed Loop)
*50kHz PWM, duty = Kp*e + Ki*integral(e), e = Vref - Vout
*Vref steps 6V->8V at 10ms. Clamp duty 0~100%.
*Design values (L=100uH, fc=f0/5=318Hz): Kp=0.96, Ki=190

*Design parameters
.param Kp=3
.param Ki=6000

Vin in 0 12

*=== PI Duty-Cycle Controller (series: integral + proportional) ===
*Carrier: sawtooth 0~12V, period 20us (50kHz), duty = V(dctrl)/12
*PULSE(V1 V2 Td Trise Tfall Ton Tperiod): 19.6u rise + 0.2u hold + 0.2u fall = 20u
Vtri tri 0 PULSE(0 12 0 19.6u 0.2u 0.2u 20u)
*Reference: 6V, ramps to 8V over 0.1ms starting at 10ms, then holds
Bref ref 0 V=6+2*limit((time-10m)/0.1m,0,1)
*Error: e = Vref - Vout
Berr err 0 V=V(ref)-V(out)
*Integral term: Ki-matched current source charges Ci
*  tanh soft-limits; linear slope = Ki*Ci = 190*1u = 0.19m A/V
*  -> dv/dt = Ki*err = 190*err V/s (matches design Ki=190)
Gi 0 int VALUE={Ki*1u*tanh(V(err)/1)}
Ci int 0 1u ic=6
*Proportional term: tanh soft-limited voltage source in series
*  Bp voltage = Kp*tanh(e/1), linear slope = Kp = 0.96 (matches design Kp)
Bp dctrl int V=Kp*tanh(V(err)/1)
*PWM compare: on when carrier < duty command (dctrl = integral + proportional)
Bpwm pwm 0 V=if(V(tri)<V(dctrl), 12, 0)

*=== Bootstrap Circuit ===
*Vcc supplies bootstrap capacitor through diode Db
Vcc vcc 0 12
Db vcc boot D
*Bootstrap capacitor: bottom plate tied to sw node
Cb boot sw 100n
*DC path for boot node (avoid floating node in .op analysis)
Rboot boot 0 1meg

*=== Gate Driver (models bootstrap-driven driver chip) ===
*Bootstrap keeps Vgs constant: Vgs = Vboot-Vsw = ~11.5V when PWM high
*Driver output = V(sw) + Vgs_drive, independent of V(boot) to avoid feedback loop
B1 drv 0 V=V(sw)+if(V(pwm)>6, 11.5, 0)
*Driver output impedance (like a real driver chip)
Rg drv gate 10
*Gate capacitance (real MOSFET has Cgs)
Cg gate sw 1n
*Convergence aid: breaks algebraic loop sw->gate->sw (needed with L=100u)
Cgnd gate 0 1n

*=== Power Stage ===
*NMOS Switch - Drain to Vin, Source to sw node
M1 in gate sw 0 NMOS
*Freewheeling Diode - Cathode to sw, Anode to GND
D1 0 sw D
*DC path for sw node (avoid floating node in .op analysis)
Rsw sw 0 10meg
*Inductor - sw node to output
L1 sw out 100u
*Output Capacitor
C1 out 0 100u
*Load Resistor
R1 out 0 10

*=== Models ===
.MODEL NMOS NMOS(VTO=2 KP=10)
.MODEL D D(IS=1e-12)

*Transient Analysis (uic: skip .op, start from zero state)
.tran 25s uic

*=== Measurements ===
*Before ref step (2~9.9ms): Vref=6V
.meas Vout_before AVG V(out) TRIG time=2ms TARG time=9.9ms
.meas Dctrl_before AVG V(dctrl) TRIG time=2ms TARG time=9.9ms
.meas Duty_before AVG V(dctrl)*100/12 TRIG time=2ms TARG time=9.9ms
*Duty ramp after ref step (10ms Vref 6->8V): track dctrl over time
*Duty cycle = V(dctrl)/12 * 100%
.meas Dctrl_t1 AVG V(dctrl) TRIG time=11ms TARG time=12ms
.meas Duty_t1 AVG V(dctrl)*100/12 TRIG time=11ms TARG time=12ms
.meas Dctrl_t2 AVG V(dctrl) TRIG time=13ms TARG time=14ms
.meas Duty_t2 AVG V(dctrl)*100/12 TRIG time=13ms TARG time=14ms
.meas Dctrl_t3 AVG V(dctrl) TRIG time=15ms TARG time=16ms
.meas Duty_t3 AVG V(dctrl)*100/12 TRIG time=15ms TARG time=16ms
.meas Dctrl_t4 AVG V(dctrl) TRIG time=17ms TARG time=18ms
.meas Duty_t4 AVG V(dctrl)*100/12 TRIG time=17ms TARG time=18ms
.meas Dctrl_t5 AVG V(dctrl) TRIG time=19ms TARG time=20ms
.meas Duty_t5 AVG V(dctrl)*100/12 TRIG time=19ms TARG time=20ms
*After ref step (18~25ms): Vref=8V
.meas Vout_after AVG V(out) TRIG time=18ms TARG time=25ms
.meas Dctrl_after AVG V(dctrl) TRIG time=18ms TARG time=25ms
.meas Duty_after AVG V(dctrl)*100/12 TRIG time=18ms TARG time=25ms
.meas Vout_min MIN V(out) TRIG time=18ms TARG time=25ms
.meas Vout_max MAX V(out) TRIG time=18ms TARG time=25ms
*IL after step
.meas IL_after AVG I(L1) TRIG time=18ms TARG time=25ms
*Mode check: IL_min > 0 -> CCM, IL_min ~ 0 -> DCM
.meas IL_min_after MIN I(L1) TRIG time=18ms TARG time=25ms
.meas IL_max_after MAX I(L1) TRIG time=18ms TARG time=25ms

.end
